US07592337B2
2-[2-(4-Pyridin-4-ylphenyl)-2H-tetrazol-5-yl]pyridine
A solution of 2-[2-(4-bromophenyl)-2H-tetrazol-5-yl]pyridine (300 mg, 1 mmol), potassium carbonate (0.276 g, 2.0 mmol), and pyridin-4-ylboronic acid (123 mg, 1 mmol) in ethylene glycol dimethyl ether (20 mL) and water (4 mL) was degassed with argon for 15 min. Then tetrakis (triphenylphosphine)palladium(0) (80 mg, 0.068 mmol) was added, the mixture degassed for another 15 min, and the solution was stirred at 65° C. for 12 h. The reaction mixture was then quenched with water (30 mL), extracted with EtOAc (3×30 mL) and washed with brine. The organic phase was dried over Na2SO4 and concentrated in vacuo. The crude residue was chromatographed on silica gel, eluting with EtOAc to afford a yellow solid. This was dissolved in anhydrous THF (10 mL) and HCl (1.5equiv) in ether was added. The

reactant | 2-[2-(4-bromophenyl)-2H-tetrazol-5-yl]pyridine | 1 mmol, 300 mg | BrC1=CC=C(C=C1)N1N=C(N=N1)C1=NC=CC=C1 | C12H8BrN5
reactant | potassium carbonate | 2.0 mmol, 0.276 g | C([O-])([O-])=O.[K+].[K+]
reactant | pyridin-4-ylboronic acid | 1 mmol, 123 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | HCl | 1.5equiv | Cl | ClH
solvent | ethylene glycol dimethyl ether | 20 mL | COCCOC | C4H10O2
solvent | water | 4 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-[2-(4-Pyridin-4-ylphenyl)-2H-tetrazol-5-yl]pyridine | N1=CC=C(C=C1)C1=CC=C(C=C1)N1N=C(N=N1)C1=NC=CC=C1 | C17H12N6
